US05114949
The procedure is as in Example 1, starting with 2-(2-chloroethyl)-3-phenyl-1,2-benzisothiazole 1,1-dioxide (2.85 g), 4-[(5-fluoro-3-indolyl)methyl]-piperidine (2.15 g) and sodium bicarbonate (2.3 g) in a mixture of dimethylformamide (30 cc) and tetrahydrofuran (20 cc). The mixture is heated to boiling for 48 hours and then cooled to a temperature in the region of 20° C. After purification by flash chromatography on a silica column under a stream of nitrogen at moderate pressure (0.5-1.5 bar) with a mixture of ethyl acetate and cyclohexane (80:20 by volume) as eluent, 2-{2-[4-((5-fluoro-3-indolyl)methyl)piperidino]ethyl}-3-phenyl-1,2-benzisothiazole 1,1-dioxide (2.6 g) is obtained, and is converted to a hydrochloride, m.p. 175° C.

reactant | 2-(2-chloroethyl)-3-phenyl-1,2-benzisothiazole 1,1-dioxide | 2.85 g | ClCCN1S(C2=C(C1C1=CC=CC=C1)C=CC=C2)(=O)=O | C15H14ClNO2S
reactant | 4-[(5-fluoro-3-indolyl)methyl]-piperidine | 2.15 g | FC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C14H17FN2
reactant | sodium bicarbonate | 2.3 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | 2-{2-[4-((5-fluoro-3-indolyl)methyl)piperidino]ethyl}-3-phenyl-1,2-benzisothiazole 1,1-dioxide | 2.6 g | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)CCN1S(C2=C(C1C1=CC=CC=C1)C=CC=C2)(=O)=O | C29H30FN3O2S
